US07842688B2
a) Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-propoxyphenyl)piperidine-1-carboxylate
Analogously to Method D, 0.0618 g of benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate and 0.0392 g of 1-iodopropane are reacted. The title compound is obtained as a colourless oil. Rf=0.35 (1:1 EtOAc-heptane); Rt=5.88.

reactant | benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.0618 g | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C32H38N2O6
reactant | 1-iodopropane | 0.0392 g | ICCC | C3H7I
product | Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-propoxyphenyl)piperidine-1-carboxylate | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCC)C(=O)OCC2=CC=CC=C2 | C35H44N2O6
